data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202401522.json
{"doi": "10.1002_adsc.202401522", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical catalyst-free radical 1,2-alkylarylation of allylic alcohols with malonate-type C–H nucleophiles bearing two or three EWGs, via umpolung of the C–H nucleophile to an electrophilic carbon radical followed by neophyl-type aryl migration.", "mechanism_family": ["radical_anodic", "paired_electrolysis", "direct_SET"], "electrochemical_role": "Anodic oxidation of the deprotonated malonate carbanion to a tertiary carbon radical; cathode reduces protons to H2.", "key_intermediates": [{"name": "malonate-derived carbanion (38) from base deprotonation of 2a", "smiles": "CCOC(=O)[C-](C(=O)OCC)C(=O)OCC", "role": "reactive"}, {"name": "tertiary electrophilic carbon radical (39) after anodic SET", "smiles": "CCOC(=O)[C](C(=O)OCC)C(=O)OCC", "role": "reactive"}, {"name": "benzylic/homoallylic C-radical adduct (40) from radical addition of 39 to allylic alcohol 1a", "smiles": null, "role": "transient"}, {"name": "spirocyclohexadienyl radical (41) from intramolecular aryl ipso-cyclization (neophyl rearrangement)", "smiles": null, "role": "transient"}, {"name": "rearranged tertiary carbon radical / α-hydroxy benzyl-type species (42) after aryl migration", "smiles": null, "role": "transient"}, {"name": "ketone product 3 after electron-proton transfer (oxidation of 42)", "smiles": "CCOC(=O)C(C(=O)OCC)(C(=O)OCC)CC(=O)c1ccccc1", "role": "reactive"}], "electron_flow": "Na2CO3 deprotonates the triester 2a to carbanion 38, which is oxidized at the graphite anode (single electron) to tertiary C-radical 39; 39 adds to allylic alcohol 1a giving radical 40, which undergoes ipso-radical cyclization onto the aryl group to spirocyclohexadienyl radical 41, ring-opens via aryl 1,2-migration to 42, and a final anodic electron-proton transfer delivers ketone 3 while the Ni-foam cathode reduces 2H+ to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "cyclic voltammetry of 1a vs 2a", "smiles": null, "purpose": "redox_probe", "observation": "No oxidation peak for allylic alcohol 1a within the CV window; 2a shows clear oxidation around 1.1 V vs Ag/AgNO3, supporting preferential anodic oxidation of the malonate component."}, {"name": "electron-poor vs electron-rich aryl migration selectivity (products 22–25)", "smiles": null, "purpose": "other", "observation": "Preferential migration of more electron-poor aryl groups is consistent with a radical (neophyl-type) rearrangement mechanism rather than a cationic one."}], "evidence_types_used": ["cyclic_voltammetry", "other"], "evidence_strength": "medium", "notes": "No TEMPO/BHT trapping, KIE, or DFT reported on these pages; mechanistic support rests on CV (selective oxidation of malonate) and the aryl-migration electronic trend characteristic of radical neophyl rearrangement. 2-Arylmalonates failed, suggesting steric/electronic limits on carbanion oxidation or radical addition. Cathodic H2 evolution makes this effectively a paired electrolysis."}
